US06451810B1
According to the general method of Example 14, 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine and 4-biphenylcarbonyl chloride were combined to provide N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-4-phenylbenzamide as a white powder, m.p. 215.4° C. (decomposition). 1H NMR (300 MHz, DMSO-d6) δ8.54 (t, J=5.7 Hz, 1H), 8.22 (s, 1H), 8.05 (d, J=7.2 Hz, 1H), 7.88 (d, J=5.4 Hz, 2H), 7.75-7.70 (m, 4H), 7.62 (dd, J=8.4, 1.5 Hz, 1H), 7.52-7.38 (m, 4H), 7.22 (dt, J=7.5, 1.2 Hz, 1H), 6.61 (s, 2H), 4.65 (t, J=7.2 Hz, 2H), 3.30 (m, 2H), 1.93 (quintet, J=7.5 Hz, 2H), 1.60 (quintet, J=7.5 Hz, 2H); MS (EI) m/e 435.2054 (435.2059 calcd for C27H25N5O).

reactant | 1-(4-aminobutyl)-1H-imidazo[4,5-c]quinolin-4-amine | NCCCCN1C=NC=2C(=NC=3C=CC=CC3C21)N | C14H17N5
reactant | 4-biphenylcarbonyl chloride | C1(=CC=C(C=C1)C(=O)Cl)C1=CC=CC=C1 | C13H9ClO
product | N1-[4-(4-amino-1H-imidazo[4,5-c]quinolin-1-yl)butyl]-4-phenylbenzamide | NC1=NC=2C=CC=CC2C2=C1N=CN2CCCCNC(C2=CC=C(C=C2)C2=CC=CC=C2)=O | C27H25N5O
